US04032527
A mixture of 2-(2-methyl-4-(diethylamino)benzoyl)-3,4,5,6-tetrachlorobenzoic acid (22.4 g.), N,N,N',N'-tetramethyl-m-phenylenediamine (8.20 g.) and acetic anhydride (75 g.) was heated (to 95° C.) during one to two hours, then refluxed with dilute hydrochloric acid (32 g. concentrated hydrochloric acid plus 160 ml. water) during one and one-half hours. The resulting mixture was poured into water and the pH was adjusted. Recrystallization of the resulting product from toluene afforded 3-(2,4-bis(dimethylamino)phenyl)-3-(2-methyl-4-(diethylamino)phenyl)-4,5,6,7-tetrachlorophthalide (I: X= (CH3)2N, Y2 = CH3, Y4 = (CH3CH2)2N, Z4 = Z5 = Z6 = Z7 = Cl) (m.p. 236°-238° C.; after slurrying in acetone, 237°-239° C.).

reactant | 2-(2-methyl-4-(diethylamino)benzoyl)-3,4,5,6-tetrachlorobenzoic acid | 22.4 g | CC1=C(C(=O)C2=C(C(=O)O)C(=C(C(=C2Cl)Cl)Cl)Cl)C=CC(=C1)N(CC)CC | C19H17Cl4NO3
reactant | N,N,N',N'-tetramethyl-m-phenylenediamine | 8.20 g | CN(C1=CC(=CC=C1)N(C)C)C | C10H16N2
reactant | acetic anhydride | 75 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | hydrochloric acid | 160 ml, 32 g | Cl | ClH
solvent | water | O | H2O
product | 3-(2,4-bis(dimethylamino)phenyl)-3-(2-methyl-4-(diethylamino)phenyl)-4,5,6,7-tetrachlorophthalide | CN(C1=C(C=CC(=C1)N(C)C)C1(OC(=O)C2=C(C(=C(C(=C12)Cl)Cl)Cl)Cl)C1=C(C=C(C=C1)N(CC)CC)C)C | C29H31Cl4N3O2
